* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_10
* Fitness: 0.5834
*
* --- Active Constraints ---
* _comment: Phase 2: 72V EV Battery to 12V (Buck - 6:1)
* vin_min: 60
* vin_max: 84
* vout_target: 12
* efficiency_target: 0.89
* power_in: 150
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 23.132679
* efficiency: 1.000000
* total_volume_cm3: 23.760000
* total_components: 7
* ============================

* 60V to 12V Interleaved 2-Phase Buck
Vin in 0 60
M1 in gate1 sw1 sw1 NMOS W=1 L=1
M2 in gate2 sw2 sw2 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 47u
L2 sw2 out 47u
C1 out 0 220u
Rload out 0 0.96
Vgate1 gate1 sw1 PULSE(0 12 0 1n 1n 4.16u 10u)
Vgate2 gate2 sw2 PULSE(0 12 5u 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end